US07504408B2
1-{3-[(4-{[5-Chloro-7-(pyridin-2-ylethynyl)-1,3-benzodioxol-4-yl]amino}-6-methoxyquinazolin-7-yl)oxy]propyl}-4-methylpiperazin-2-one
This was prepared by the method described in example 4 but using 1-{3-[(4-chloro-6-methoxyquinazolin-7-yl)oxy]propyl}-4-methylpiperazin-2-one (137 mg, 0.37 mmol), 5-chloro-7-(pyridin-2-ylethynyl)-1,3-benzodioxol-4-amine (113 mg, 0.41 mmol) and sodium bis(trimethylsilyl)amide (1.0M in THF, 0.8 ml) in DMF (2 ml). The crude product was purified by column chromatography on silica using 10% methanol in dichloromethane as eluent. There was thus obtained the title compound (181 mg, 80%) as a pale yellow solid; NMR Spectrum:(DMSOd6) 2.21 (quintet, 2H), 2.31 (s, 3H), 2.63 (t, 2H), 3.09 (s, 2H), 3.38 (t, 2H), 3.61 (t, 2H), 3.97 (s, 3H), 4.20 (t, 2H), 6.08 (s, 2H), 7.18 (d, 2H), 7.25 (m, 3H), 7.54 (d, 1H), 7.70 (t, 1H), 8.62 (m, 2H); Mass Spectrum: M+H+ 601/603.

reactant | 1-{3-[(4-chloro-6-methoxyquinazolin-7-yl)oxy]propyl}-4-methylpiperazin-2-one | 0.37 mmol, 137 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1C(CN(CC1)C)=O | C17H21ClN4O3
reactant | 5-chloro-7-(pyridin-2-ylethynyl)-1,3-benzodioxol-4-amine | 0.41 mmol, 113 mg | ClC1=C(C2=C(OCO2)C(=C1)C#CC1=NC=CC=C1)N | C14H9ClN2O2
reactant | sodium bis(trimethylsilyl)amide | 1.0M, 0.8 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 1-{3-[(4-{[5-Chloro-7-(pyridin-2-ylethynyl)-1,3-benzodioxol-4-yl]amino}-6-methoxyquinazolin-7-yl)oxy]propyl}-4-methylpiperazin-2-one | 181 mg, 80% | ClC1=C(C2=C(OCO2)C(=C1)C#CC1=NC=CC=C1)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1C(CN(CC1)C)=O | C31H29ClN6O5
